US05571880
The compound 2,7-bis(dimethylphenylcarbyl) fluorene, which is believed to be a new compound, was prepared by reacting benzoic acid with fluorene in hot polyphosphoric acid at about 100° C. to yield 2,7-dibenzoylfluorene which is then reacted with trimethyl aluminum in boiling toluene.

reactant | fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | 2,7-dibenzoylfluorene | C(C1=CC=CC=C1)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(C1=CC=CC=C1)=O | C27H18O2
